US05409943
N-(3-(2-Methylbenzyloxy)-2-pyridyl)-4-methoxyphenylacetamidine hydrochloride
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (5.2 g, 24.2 mmol) and ethyl 4-methoxyphenylacetimidate hydrochloride (6.1 g, 26.7 mmol) in ethanol (80 ml) was heated under reflux for 2 hours, then the solvent evaporated. The residue was taken up in chloroform, filtered to remove an insoluble solid, and the filtrate purified by flash chromatography (chloroform/methanol) to obtain the product (0.29 g), m.p. 58°-67° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 24.2 mmol, 5.2 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | ethyl 4-methoxyphenylacetimidate hydrochloride | 26.7 mmol, 6.1 g | Cl.COC1=CC=C(C=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2-Methylbenzyloxy)-2-pyridyl)-4-methoxyphenylacetamidine hydrochloride | 0.29 g | Cl.CC1=C(COC=2C(=NC=CC2)NC(CC2=CC=C(C=C2)OC)=N)C=CC=C1 | InChI=1S/C22H23N3O2.ClH/c1-16-6-3-4-7-18(16)15-27-20-8-5-13-24-22(20)25-21(23)14-17-9-11-19(26-2)12-10-17;/h3-13H,14-15H2,1-2H3,(H2,23,24,25);1H
